US07378418B2
Preparation of 4-((7,8-bis-(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (192 mg, 0.54 mmol), prepared as described in Example 1, K2CO3 (90 mg), and α-bromo-p-toluonitrile (127 mg, 0.645 mmol) in DMF (2 mL) was heated at 75° C. for 1 h. After this time, the solution was concentrated under redcued pressure. The resulting crude product was purified by reverse phase HPLC to provided the title compound, 4-((7,8-bis-(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile (80 mg) as a yellow solid. MS M+H=472; 1H NMR (CDCl3): δ 8.17 (s, 1H), 7.63 (d, J=8.4 Hz, 2H), 7.49 (d, J=8.3 Hz, 2H), 7.33 (m, 2H), 7.25 (m, 2H), 7.24 (m, 2H), 7.09 (m, 2H), 5.25 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.54 mmol, 192 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 90 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | α-bromo-p-toluonitrile | 0.645 mmol, 127 mg | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-((7,8-bis-(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile | 80 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC2=CC=C(C#N)C=C2)=O)C2=CC=C(C=C2)Cl | C25H15Cl2N5O
